US08202858B2
4-Formyl-piperidine-1-carboxylic Acid Benzyl Ester
Dess-Martin reagent (17 g, 39.6 mmol) was added portion-wise to a solution of 4-hydroxymethyl-piperidine-1-carboxylic acid benzyl ester from Example E33.1 (8.33 g, 33 mmol) in dichloromethane (100 ml) at room temperature. The mixture was stirred for 3 h under an inert atmosphere then diluted with chloroform and water and the layers were partitioned. The organic layer was washed with brine, dried and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 40% EtOAc:60% hexane) to yield the title compound (5.5 g, 66%).

reactant | Dess-Martin reagent | 39.6 mmol, 17 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | 4-hydroxymethyl-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CO | C14H19NO3
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 4-Formyl-piperidine-1-carboxylic Acid Benzyl Ester | 5.5 g, 66% | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C=O | C14H17NO3
